2107-10-31 06:38:00 Physician Resident Progress Note
Chief Complaint: Cholangitis
   24 Hour Events:
   - pt with elevated BP into the 190-200 --> given hydral 5mg and
   returned to 110-140's.
   - Pt Hct 32.2 --> 27.4 --> 26.7
   - pt had large maroon stool overnight
   - pt transfused 1U pRBC
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2107-10-30**] 06:02 PM
   Metronidazole - [**2107-10-31**] 02:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-10-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, no light-headness, dizziness
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis, pt
   with 1 episode of maroon stools
   Genitourinary: No(t) Dysuria
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-10-31**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 72 (60 - 74) bpm
   BP: 144/22(53) {94/22(53) - 223/74(108)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
           Total In:
                                                                    990 mL
                                                                    413 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                    390 mL
                                                                    164 mL
   Blood products:
   248 mL
   Total out:
                                                                    350 mL
                                                                    300 mL
   Urine:
                                                                    350 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    640 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x3,
   Movement: Purposeful, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   163 K/uL
   8.9 g/dL
   122 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.9 mEq/L
   30 mg/dL
   109 mEq/L
   136 mEq/L
   26.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2107-10-30**]  04:13 PM
                             [**2107-10-30**]  09:33 PM
                             [**2107-10-31**]  01:40 AM
   WBC
   16.1
   11.5
   Hct
   32.2
   27.4
   26.7
   Plt
   170
   163
   Cr
   0.9
   1.0
   Glucose
   144
   122
   Other labs: PT / PTT / INR:14.6/24.4/1.3, ALT / AST:121/95, Alk Phos /
   T Bili:149/1.5, Amylase / Lipase:122/200, Differential-Neuts:89.5 %,
   Lymph:8.2 %, Mono:2.1 %, Eos:0.1 %, Albumin:3.0 g/dL, LDH:176 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Assesment: This is a 87 yoF w/ cholangitis presenting post ERCP-
   sphincterotomy and stent placement with sphincterotomy bleeding which
   was locally controlled- admitted to [**Hospital Unit Name 10**] for further observation given
   risk of re-bleed.
   Plan:
   # Cholangitis: s/p ERCP with a sphincterotomy and  stent placment for
   cholangitis, stones in the common bile duct.  Had biliary ductal
   dilation. Pt has been afebrile and hemodynamically stable.  No evidence
   of post-ERCP pancreatitis
   -continue antibiotics cipro / flagyl --> t/d with surgery regarding
   length of treatment
   - remain NPO
   -goal UOP > 30cc/hr
   -monitor HR and BP
   -check daily LFT and pancreatic enzymes
   - f/u with ERCP recs
   .
   # GI BLEED: s/p sphincterotomy with roughly 200cc of bleeding, bleeding
   controlled locally during ERCP.  The patient had episode of large
   maroon BM, with SBP into the 90-100's.  Pt was transfused 1U pRBC due
   to progressively decreasing Hct.  Pt
s Hct did not increase
   appropriately after 1U. ERCP fellow notified.
   - will transfuse 1U pRBC
   -trend hct q6hrs, transfuse for hct of < 25
   -maintain active type and screen
   - keep NPO
   - hemodynamic monitoring.
   -2 large bore IVs
   -given risk of bleed will hold sc heparin
   - f/u ERCP recs
   .
   # Transaminase elevation: likely [**2-26**] cholangitis.  LFT and Bilirubins
   are trending down.
   - f/u hepatitis serologies that were sent
   - will trend LFTs and pancreatic enzymes
   .
   # CAD: no active issues.  Hold ASA and lipitor.
   -monitor on tele
   .
   # b12 deficiency- cont 1000 mcg b12, levels were normal.
   .
   # Hyperlipidemia: hold lipitor in setting of transaminitis.
   .
   # HTN: Pt was  hypertensive and given 5mg hydral, but asymptomatic.
   Will avoid hydral and give Beta blocker for BP control.  Home med is
   atenolol, but will use lopressor for shorting acting [**Doctor Last Name 23**] given risk
   of bleed.
   -Will cont home diovan
   - start lopressor 12.5mg [**Hospital1 **]
   .
   # DMII: diabetic diet when able to eat.  1/2 dose lantus while npo and
   RISS and q6hr finger sticks, hold metformin as inpatient.
   .
   # FEN:  NPO for now, PPI
   .
   # Access: PIV
   .
   # PPx:  PPI [**Hospital1 **], hold sc heparin given bleed, pneumoboots
   .
   # Code:  DNR/I confirmed with patient
   .
   # Dispo:  Will recheck Hct after 1U transfusion and check for signs of
   bleeding
   .
   # Comm: HCP [**Name (NI) **] [**Name (NI) 1130**]  (son) [**Telephone/Fax (1) 1131**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-10-31**] 04:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-11-01 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 1u PRBC during the day. ~400 cc with hct to 23.4,
   transfused 2u PRBC
   - Continued to have melanotic stools. 10p - large melanotic stool .  Pt
   also lost conciousness on the commode .
   - Per GI, clears today, NPO at midnight with possible endoscopy
   tomorrow
   - Switched to metoprolol tid for hypertension.  Hypertensive this AM up
   to 200s/50s, received labetolol 10 mg IV x2.
   - This AM continues to have melanotic stool now with coffee gound
   emesis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2107-10-31**] 07:45 PM
   Metronidazole - [**2107-11-1**] 12:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-10-31**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, Diarrhea
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2107-11-1**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 74 (61 - 82) bpm
   BP: 202/67(96) {96/39(56) - 202/85(96)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
           Total In:
                                                                  1,784 mL
                                                                    622 mL
   PO:
                                                                    120 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    945 mL
                                                                    169 mL
   Blood products:
                                                                    719 mL
                                                                    403 mL
   Total out:
                                                                  1,200 mL
                                                                    190 mL
   Urine:
                                                                    450 mL
                                                                    180 mL
   NG:
   10 mL
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                    584 mL
                                                                    432 mL
   Respiratory support
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal),  RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: lower
   abdomin
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x3,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   132 K/uL
   11.0 g/dL
   192 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.0 mEq/L
   48 mg/dL
   112 mEq/L
   138 mEq/L
   30.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2107-10-30**]  04:13 PM
                             [**2107-10-30**]  09:33 PM
                             [**2107-10-31**]  01:40 AM
                             [**2107-10-31**]  07:59 AM
                             [**2107-10-31**]  03:15 PM
                             [**2107-10-31**]  07:25 PM
                             [**2107-10-31**]  09:54 PM
                             [**2107-11-1**]  04:29 AM
   WBC
   16.1
   11.5
   9.3
   Hct
   32.2
   27.4
   26.7
   25.8
   27.7
   24.1
   23.4
   30.8
   Plt
   170
   163
   132
   Cr
   0.9
   1.0
   1.0
   Glucose
   144
   122
   192
   Other labs: PT / PTT / INR:13.4/25.1/1.1, ALT / AST:70/56, Alk Phos / T
   Bili:136/4.5, Amylase / Lipase:47/54, Differential-Neuts:89.5 %,
   Lymph:8.2 %, Mono:2.1 %, Eos:0.1 %, Albumin:3.0 g/dL, LDH:175 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assesment: This is a 87 yoF w/ cholangitis presenting post ERCP-
   sphincterotomy and stent placement with sphincterotomy bleeding which
   was locally controlled- admitted to [**Hospital Unit Name 10**] for further observation given
   risk of re-bleed.
   Plan:
    # GI BLEED: s/p ERCP and sphincterotomy.  The patient had continued
   episodes of [**Last Name (un) 1165**]/bloody stools.  Pt was transfused 3U pRBC due to
   progressively decreasing Hct. Today Hct is 30.8. ERCP aware.  The
   patient went to ERCP and was found to have clots and her stent had
   migrated into the duodenum.  She also had cautery and epi to stop
   additional bleeding.  Her post-ERCP Hct dropped to 21.1
   Hemodynamically the patient
s pressures have been 90-110
   post-procedure.
   - f/u ERCP recs
   - will transfuse 2U pRBC and 2U FFP
   -trend hct q6hrs, transfuse for hct of < 25
   -maintain active type and screen
   - NPO
   - hemodynamic monitoring.
   -2 large bore IVs
   -given risk of bleed will hold sc heparin
   - IV PPI
   .
   # Cholangitis: s/p ERCP with a sphincterotomy and stent placment for
   cholangitis, stones in the common bile duct.  Pt returned to ERCP and
   the stent had migrated and addition stone was found.  Pt had new stent
   placed and the old one was recovered.  LFT are trending down, but TBili
   has increased to 4.5 No evidence of post-ERCP pancreatitis
   - check direct bili levels
   -continue antibiotics cipro / flagyl
   - remain NPO
   -goal UOP > 30cc/hr
   -monitor HR and BP
   -check daily LFT and pancreatic enzymes
   - f/u with ERCP recs
   .
   # Transaminase elevation: likely [**2-26**] cholangitis.  LFT and Bilirubins
   are trending down.
   - f/u hepatitis serologies
   - will trend LFTs and pancreatic enzymes
   .
   # HTN: Pt was  hypertensive and given 10mg labetolol x 3 yesterday and
   this AM, pt asymptomatic.   Home med is atenolol, but will use
   lopressor for shorting acting [**Doctor Last Name 23**] given risk of bleed.
   -Will cont home diovan
   - lopressor 12.5mg TID
   .
   # CAD: no active issues.  Hold ASA and lipitor.
   -monitor on tele
   .
   # b12 deficiency- cont 1000 mcg b12, levels were normal.
   .
   # Hyperlipidemia: hold lipitor in setting of transaminitis.
   .
   # DMII: diabetic diet when able to eat.  1/2 dose lantus while npo and
   RISS and q6hr finger sticks, hold metformin as inpatient.
   .
   # FEN:  Sips for now, PPI
   .
   # Access: PIV
   .
   # PPx:  PPI [**Hospital1 **], hold sc heparin given bleed, pneumoboots
   .
   # Code:  DNR/I confirmed with patient
   .
   # Dispo:  ICU level of care
   .
   # Comm: HCP [**Name (NI) **] [**Name (NI) 1130**]  (son) [**Telephone/Fax (1) 1131**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-10-31**] 11:02 PM
   20 Gauge - [**2107-11-1**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-11-02 07:27:00 Physician Resident Progress Note
Chief Complaint: Cholangitis
   24 Hour Events:
   - ERCP - clot removed, stent replaced.
   - Transfused 2U pRBCs, 2U FFP
   - Post-procedure hct 21, at 2200 = 26.7 (post-transfusion)
   - Post-procedure became hypotensive and hypothermic, pt responded to
   fluids and blood.  started on vanc.
   - ERCP recs - If continues to drop in morning, get heme involved to
   assess for bleeding diathesis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2107-11-1**] 04:30 PM
   Ciprofloxacin - [**2107-11-1**] 08:45 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-11-1**] 08:15 AM
   Hydralazine - [**2107-11-1**] 06:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis, pt
   reports some crampy abdominal pain relieved by BM, pt with bloody
   stools
   Neurologic: denied light-headness, dizziness
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-11-2**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 73 (60 - 85) bpm
   BP: 155/58(80) {101/27(51) - 188/64(88)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
             Total In:
                                                                  3,119 mL
                                                                     87 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  1,319 mL
                                                                     87 mL
   Blood products:
                                                                  1,750 mL
   Total out:
                                                                    598 mL
                                                                    380 mL
   Urine:
                                                                    588 mL
                                                                    380 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  2,521 mL
                                                                   -293 mL
   Respiratory support
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x3,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   82 K/uL
   9.5 g/dL
   80 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   40 mg/dL
   110 mEq/L
   140 mEq/L
   25.5 %
   9.6 K/uL
        [image002.jpg]
                             [**2107-10-30**]  09:33 PM
                             [**2107-10-31**]  01:40 AM
                             [**2107-10-31**]  07:59 AM
                             [**2107-10-31**]  03:15 PM
                             [**2107-10-31**]  07:25 PM
                             [**2107-10-31**]  09:54 PM
                             [**2107-11-1**]  04:29 AM
                             [**2107-11-1**]  12:54 PM
                             [**2107-11-1**]  10:42 PM
                             [**2107-11-2**]  04:44 AM
   WBC
   11.5
   9.3
   9.6
   Hct
   27.4
   26.7
   25.8
   27.7
   24.1
   23.4
   30.8
   21.1
   26.7
   25.5
   Plt
   163
   132
   82
   Cr
   1.0
   1.0
   1.1
   1.0
   Glucose
   122
   192
   393
   80
   Other labs: PT / PTT / INR:13.4/25.1/1.1, ALT / AST:242/372, Alk Phos /
   T Bili:215/4.2, Amylase / Lipase:316/25, Differential-Neuts:89.5 %,
   Lymph:8.2 %, Mono:2.1 %, Eos:0.1 %, Albumin:3.0 g/dL, LDH:331 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assesment: This is a 87 yoF w/ cholangitis presenting post ERCP-
   sphincterotomy and stent placement with sphincterotomy bleeding which
   was locally controlled- admitted to [**Hospital Unit Name 10**] for further observation given
   risk of re-bleed.
   Plan:
    # GI BLEED: s/p ERCP and sphincterotomy.  The patient had continued
   episodes of [**Last Name (un) 1165**]/bloody stools.  Pt was transfused 2U pRBC due to
   progressively decreasing Hct. Today Hct is 25.5 down from 26.7 last
   night. The patient went to ERCP and was found to have clots and her
   stent had migrated into the duodenum.  She also had cautery and epi to
   stop additional bleeding.  Hemodynamically the patient has been
   stable.  Likely continued bleeding from ERCP site. Pt platelets
   decreased likely [**2-26**] to transfusions.  INR and PTT wnl.  Cipro and
   flagyl not associated with thrombocytopenia, however pt given Vanco
   that could be myelosupressive.  ERCP plans to take her back to the OR
   today.
   - will transfuse 1U pRBC per ERCP
   - f/u ERCP recs
   -trend hct q6hrs, transfuse for hct of < 25
   -maintain active type and screen
   - NPO
   - hemodynamic monitoring.
   -2 large bore IVs
   -given risk of bleed will hold sc heparin
   - IV PPI
   .
   # Cholangitis: s/p ERCP with a sphincterotomy and stent placment for
   cholangitis, stones in the common bile duct.  Pt returned to ERCP and
   the stent had migrated and addition stone was found.  Pt had new stent
   placed and the old one was recovered.  Pt was hypotensive and
   hypothermic.  Pt started on Vanco post procedure.  LFT and Amylase are
   elevated today. TBili has minimally decreased to 4.2. Pt at risk for
   post-ERCP pancreatitis.
   -continue antibiotics cipro / flagyl
   - will switch vanco to amp
   - remain NPO
   -goal UOP > 30cc/hr
   -monitor HR and BP
   -check daily LFT and pancreatic enzymes
   - f/u with ERCP recs
   .
   # Transaminase elevation: likely [**2-26**] cholangitis.  LFT and Bilirubins
   are trending down.
   - f/u hepatitis serologies
   - will trend LFTs and pancreatic enzymes
   .
   #Thrombocytopenia: See above.  Likely [**2-26**] multiple transfusions.
   Unlikely HIT given not thrombotic and hasn
t received heparin.
   Possible contribution from vanco.
   -check CBC q6
   .
   # HTN: Pt was  hypertensive and given 10mg labetolol x 1 yesterday and
   this AM, pt asymptomatic.   Home med is atenolol, but will use
   lopressor for shorting acting [**Doctor Last Name 23**] given risk of bleed.
   -Will start captopril since short acting ACE and normal renal fxn.
   - lopressor 12.5mg TID
   .
   # CAD: no active issues.  Hold ASA and lipitor.
   -monitor on tele
   .
   # b12 deficiency- cont 1000 mcg b12, levels were normal.
   .
   # Hyperlipidemia: hold lipitor in setting of transaminitis.
   .
   # DMII: diabetic diet when able to eat.  1/2 dose lantus while npo and
   RISS and q6hr finger sticks, hold metformin as inpatient.
   .
   # FEN:  Sips for now, PPI
   .
   # Access: PIV
   .
   # PPx:  PPI [**Hospital1 **], hold sc heparin given bleed, pneumoboots
   .
   # Code:  DNR/I confirmed with patient
   .
   # Dispo:  ICU level of care
   .
   # Comm: HCP [**Name (NI) **] [**Name (NI) 1130**]  (son) [**Telephone/Fax (1) 1131**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-10-31**] 11:02 PM
   20 Gauge - [**2107-11-1**] 12:01 AM
   16 Gauge - [**2107-11-1**] 03:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-11-03 06:52:00 Physician Resident Progress Note
Chief Complaint: Cholangitis and GI bleed
   24 Hour Events:
   - Pt taken back to ERCP, no active bleeding found, but
   electrocauterization was performed in the erythematous area
   - Pt had large melanotic stool (200cc) at midnight, pt given 1U pRBC
   (midnight Hct was 28.4), had smaller melanotic BM early this morning
   - Informed ERCP fellow and told to cont to trend crit and transfuse as
   ness
   - Pt refusing labs, meds, and additional interventions. Pt has "made
   peace."  Attempted to call patient's son this AM, but no answer.
 ERCP - At [**2107-11-2**] 04:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2107-11-2**] 08:02 PM
   Ciprofloxacin - [**2107-11-2**] 08:02 PM
   Metronidazole - [**2107-11-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria
   Psychiatric / Sleep: depressed
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-11-3**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 76 (61 - 76) bpm
   BP: 199/74(106) {126/43(75) - 212/135(143)} mmHg
   RR: 20 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Height: 63 Inch
           Total In:
                                                                  1,121 mL
                                                                    441 mL
   PO:
           TF:
   IVF:
                                                                    746 mL
                                                                    165 mL
   Blood products:
                                                                    375 mL
                                                                    276 mL
   Total out:
                                                                  1,305 mL
                                                                    140 mL
   Urine:
                                                                  1,305 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -184 mL
                                                                    301 mL
   Respiratory support
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   82 K/uL
   9.5 g/dL
   80 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   40 mg/dL
   110 mEq/L
   140 mEq/L
   28.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2107-10-31**]  03:15 PM
                             [**2107-10-31**]  07:25 PM
                             [**2107-10-31**]  09:54 PM
                             [**2107-11-1**]  04:29 AM
                             [**2107-11-1**]  12:54 PM
                             [**2107-11-1**]  10:42 PM
                             [**2107-11-2**]  04:44 AM
                             [**2107-11-2**]  02:09 PM
                             [**2107-11-2**]  04:30 PM
                             [**2107-11-3**]  12:07 AM
   WBC
   9.3
   9.6
   Hct
   27.7
   24.1
   23.4
   30.8
   21.1
   26.7
   25.5
   30.0
   30.7
   28.4
   Plt
   132
   82
   Cr
   1.0
   1.1
   1.0
   Glucose
   192
   393
   80
   Other labs: PT / PTT / INR:13.4/25.1/1.1, ALT / AST:242/372, Alk Phos /
   T Bili:215/4.2, Amylase / Lipase:316/25, Differential-Neuts:89.5 %,
   Lymph:8.2 %, Mono:2.1 %, Eos:0.1 %, Albumin:3.0 g/dL, LDH:331 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assesment: This is a 87 yoF w/ cholangitis presenting post ERCP-
   sphincterotomy and stent placement with sphincterotomy bleeding which
   was locally controlled- admitted to [**Hospital Unit Name 10**] for further observation given
   risk of re-bleed.
   Plan:
   #Code Status: Pt is DNR/DNI.  This morning patient is refusing all
   meds, labs, procedures.  The patient states she is "at peace" and
   doesn
t want further treatment.  Will talk with son this AM.
   - will discuss with son regarding patient's refusal for care, pt
   requested we speak with him.
   - further workup and eval pending patient
s decision to stop care.
   # GI BLEED: s/p ERCP and sphincterotomy.  The patient has had to return
   for repeat cautery twice since initial procedure.  The patient has
   continued episodes of melanotic stool, but this most likely represents
   previous bleed moving thru the bowel and not current bleeding.  Pt was
   transfused 1U pRBC due to progressively decreasing Hct. Hemodynamically
   the patient has been stable.  Likely continued bleeding from ERCP site.
   INR and PTT wnl.  However, the patient is currently refusing all meds,
   lab work and proceudres.
   - will discuss IR embolization if patient continues to bleed and
   require transfusions.
   - f/u ERCP recs
   -trend hct q6hrs, transfuse for hct of < 25
   -maintain active type and screen
   - NPO
   - hemodynamic monitoring.
   -2 large bore IVs
   -given risk of bleed will hold sc heparin
   - IV PPI
   .
   # Cholangitis: s/p ERCP with a sphincterotomy and stent placment for
   cholangitis, stones in the common bile duct.   Pt started on Vanco post
   procedure yesterday due to hypotension and hypothermia post proceudre.
   Was switched to Amp yesterday.  LFT and Amylase not drawn today. Pt at
   risk for post-ERCP pancreatitis.
   -continue antibiotics cipro / flagyl
   - Cont amp
   - remain NPO
   -goal UOP > 30cc/hr
   -monitor HR and BP
   -check daily LFT and pancreatic enzymes
   - f/u with ERCP recs
   - f/u blood cx
   .
   # Transaminase elevation: likely [**2-26**] cholangitis.  Pt refused labs this
   AM
   Negative hepatitis serology.
   - will attempt to trend LFTs and pancreatic enzymes
   .
   #Thrombocytopenia: Dilutional [**2-26**] multiple transfusions and
   conspumption from bleeding.  Possible contribution from vanco.
   -Pt currently refusing blood draws.
   .
   # HTN: Pt was  hypertensive and given 10mg labetolol x 1 yesterday ,pt
   asymptomatic.   Home med is atenolol, but will use lopressor for
   shorting acting [**Doctor Last Name 23**] given risk of bleed.   Pt does not want BP
   medications.
   -Cont captopril and will increase lopressor 25mg TID..
   # CAD: no active issues.  Hold ASA and lipitor.
   -monitor on tele
   .
   # b12 deficiency- cont 1000 mcg b12, levels were normal.
   .
   # Hyperlipidemia: hold lipitor in setting of transaminitis.
   .
   # DMII: diabetic diet when able to eat.  1/2 dose lantus while npo and
   RISS and q6hr finger sticks, hold metformin as inpatient.
   .
   # FEN:  NPO, PPI
   .
   # Access: PIV
   .
   # PPx:  PPI [**Hospital1 **], hold sc heparin given bleed, pneumoboots
   .
   # Code:  DNR/I confirmed with patient
   .
   # Dispo:  ICU level of care
   .
   # Comm: HCP [**Name (NI) **] [**Name (NI) 1130**]  (son) [**Telephone/Fax (1) 1131**]
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2107-10-31**] 11:02 PM
   20 Gauge - [**2107-11-2**] 10:09 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2107-11-04 07:39:00 Physician Resident Progress Note
Chief Complaint: No complaints
   24 Hour Events:
   - Switched to valsartan, d/c'd ACE-I
   - Otherwise uneventful
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2107-11-2**] 08:02 PM
   Ciprofloxacin - [**2107-11-2**] 08:02 PM
   Metronidazole - [**2107-11-4**] 12:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2107-11-4**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 77 (63 - 89) bpm
   BP: 198/66(100) {157/52(80) - 214/94(119)} mmHg
   RR: 21 (16 - 23) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Height: 63 Inch
                  Total In:
                                                                    888 mL
                                                                    120 mL
   PO:
                                                                    450 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    162 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  1,640 mL
                                                                    400 mL
   Urine:
                                                                  1,640 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -752 mL
                                                                   -280 mL
   Respiratory support
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   113 K/uL
   13.0 g/dL
   136 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   17 mg/dL
   110 mEq/L
   138 mEq/L
   36.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2107-10-31**]  09:54 PM
                             [**2107-11-1**]  04:29 AM
                             [**2107-11-1**]  12:54 PM
                             [**2107-11-1**]  10:42 PM
                             [**2107-11-2**]  04:44 AM
                             [**2107-11-2**]  02:09 PM
                             [**2107-11-2**]  04:30 PM
                             [**2107-11-3**]  12:07 AM
                             [**2107-11-3**]  11:15 AM
                            [**2107-11-4**]  04:52 AM
   WBC
   9.3
   9.6
   8.7
   7.2
   Hct
   23.4
   30.8
   21.1
   26.7
   25.5
   30.0
   30.7
   28.4
   34.7
   36.2
   Plt
   132
   82
   94
   113
   Cr
   1.0
   1.1
   1.0
   0.7
   0.8
   Glucose
   192
   393
   80
   141
   136
   Other labs: PT / PTT / INR:12.9/25.1/1.1, ALT / AST:123/68, Alk Phos /
   T Bili:263/1.8, Amylase / Lipase:71/39, Differential-Neuts:89.5 %,
   Lymph:8.2 %, Mono:2.1 %, Eos:0.1 %, Albumin:3.0 g/dL, LDH:248 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   87 yoF w/ cholangitis presenting post ERCP- sphincterotomy and stent
   placement with sphincterotomy bleeding which was locally controlled-
   admitted to [**Hospital Unit Name 10**] for further observation given risk of re-bleed.
   #Code Status: Pt is DNR/DNI. Patient has been refusing all meds, labs,
   procedures, but allowed labs to be drawn this morning.
   - Patient likely to be discharged given recent decision to discontinue
   treatment.
   # HYPERTENSION: Patient has been hypertensive past 24 hours with SBP in
   the 190s. Asymptomatic. Have switched her antihypertensive medications
   back to diovan, which was her home medication. Increased this morning.
   Will continue to monitor. If this returns to within normal limits, then
   she may be able to be discharged.
   # GI BLEED: s/p ERCP and sphincterotomy.  The patient has had to return
   for repeat cautery twice since initial procedure.  The patient has
   continued episodes of melanic stool, but this may represent previous
   bleed from ERCP site moving thru the bowel and not current bleeding.
   Hemodynamically the patient has been stable.  INR and PTT wnl.  HCT
   improved at 36.2.
   - Patient to follow up with ERCP in [**7-3**] weeks
   -trend hct q6hrs, transfuse for hct of < 25
   -maintain active type and screen
   - hemodynamic monitoring.
   -2 large bore IVs
   -given risk of bleed will hold sc heparin
   # Cholangitis: s/p ERCP with a sphincterotomy and stent placment for
   cholangitis, stones in the common bile duct.  On ampicillin due to
   hypotension/hypothermia post op.  Pt at risk for post-ERCP
   pancreatitis.
   -continue antibiotics cipro / flagyl
   - Cont amp
   - goal UOP > 30cc/hr
   -monitor HR and BP
   -check daily LFT and pancreatic enzymes
   - f/u with ERCP recs
   - f/u blood cx
   .
   # Transaminase elevation: likely [**2-26**] cholangitis. Improving. Negative
   hepatitis serology.
   #Thrombocytopenia: Dilutional [**2-26**] multiple transfusions and
   conspumption from bleeding.  Possible contribution from vanco.
   Improving
   # CAD: no active issues.  Hold ASA and lipitor.
   -monitor on tele
   .
   # b12 deficiency- cont 1000 mcg b12, levels were normal.
   .
   # Hyperlipidemia: hold lipitor in setting of transaminitis.
   .
   # DMII: diabetic diet.  1/2 dose lantus while npo and RISS and q6hr
   finger sticks, hold metformin as inpatient.
   .
   # FEN:  NPO, PPI
   .
   # Access: PIV
   .
   # PPx:  PPI [**Hospital1 **], hold sc heparin given bleed, pneumoboots
   .
   # Code:  DNR/I confirmed with patient
   .
   # Dispo:  Home today.
   .
   # Comm: HCP [**Name (NI) **] [**Name (NI) 1130**]  (son) [**Telephone/Fax (1) 1131**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-11-04 12:39:00 Physician Resident Progress Note
Chief Complaint: No complaints
   24 Hour Events:
   - Patient to continued to be hypertensive in the 190s. ACE inhibitor
   discontinued. Started on Valsartan 80mg. Received 3 doses of
   Hydralazine overnight.
   - Valsartan increased to 160mg in AM with decrease in BP from 190s to
   140s.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2107-11-2**] 08:02 PM
   Ciprofloxacin - [**2107-11-2**] 08:02 PM
   Metronidazole - [**2107-11-4**] 12:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2107-11-4**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 77 (63 - 89) bpm
   BP: 198/66(100) {157/52(80) - 214/94(119)} mmHg
   RR: 21 (16 - 23) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Height: 63 Inch
                  Total In:
                                                                    888 mL
                                                                    120 mL
   PO:
                                                                    450 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    162 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  1,640 mL
                                                                    400 mL
   Urine:
                                                                  1,640 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -752 mL
                                                                   -280 mL
   Respiratory support
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   113 K/uL
   13.0 g/dL
   136 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   17 mg/dL
   110 mEq/L
   138 mEq/L
   36.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2107-10-31**]  09:54 PM
                             [**2107-11-1**]  04:29 AM
                             [**2107-11-1**]  12:54 PM
                             [**2107-11-1**]  10:42 PM
                             [**2107-11-2**]  04:44 AM
                             [**2107-11-2**]  02:09 PM
                             [**2107-11-2**]  04:30 PM
                             [**2107-11-3**]  12:07 AM
                             [**2107-11-3**]  11:15 AM
                            [**2107-11-4**]  04:52 AM
   WBC
   9.3
   9.6
   8.7
   7.2
   Hct
   23.4
   30.8
   21.1
   26.7
   25.5
   30.0
   30.7
   28.4
   34.7
   36.2
   Plt
   132
   82
   94
   113
   Cr
   1.0
   1.1
   1.0
   0.7
   0.8
   Glucose
   192
   393
   80
   141
   136
   Other labs: PT / PTT / INR:12.9/25.1/1.1, ALT / AST:123/68, Alk Phos /
   T Bili:263/1.8, Amylase / Lipase:71/39, Differential-Neuts:89.5 %,
   Lymph:8.2 %, Mono:2.1 %, Eos:0.1 %, Albumin:3.0 g/dL, LDH:248 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   87 yoF w/ cholangitis presenting post ERCP- sphincterotomy and stent
   placement with sphincterotomy bleeding which was locally controlled-
   admitted to [**Hospital Unit Name 10**] for further observation given risk of re-bleed.
   # HYPERTENSION: Patient has been hypertensive past 24 hours with SBP in
   the 190s. Asymptomatic. Have switched her antihypertensive medications
   back to diovan, which was her home medication with an increase in dose
   this morning. BP responded. Will continue to monitor.
   - Will continue Diovan 160mg PO daily
   - Change to Atenolol 25mg PO daily
   - Can callout to floor to continue monitoring BP
   # GI BLEED: s/p ERCP and sphincterotomy.  The patient has had to return
   for repeat cautery twice since initial procedure.  The patient has not
   had any episodes of melanic stool today. Hemodynamically the patient
   has been stable.  INR and PTT wnl.  HCT improved at 36.2.
   - Patient to follow up with ERCP in [**7-3**] weeks
   - hemodynamic monitoring.
   -given risk of bleed will hold sc heparin
   # Cholangitis: s/p ERCP with a sphincterotomy and stent placment for
   cholangitis, stones in the common bile duct.  On ampicillin due to
   hypotension/hypothermia post op.  Pt at risk for post-ERCP
   pancreatitis.
   -continue antibiotics cipro / flagyl
   - Cont amp
   - goal UOP > 30cc/hr
   -monitor HR and BP
   - f/u blood cx
   .
   # Transaminase elevation: likely [**2-26**] cholangitis. Improving. Negative
   hepatitis serology.
   #Thrombocytopenia: Dilutional [**2-26**] multiple transfusions and
   conspumption from bleeding.  Possible contribution from vanco.
   Improving.
   # CAD: no active issues.  Hold ASA and lipitor.
   -monitor on tele
   .
   # b12 deficiency- cont 1000 mcg b12, levels were normal.
   .
   # Hyperlipidemia: hold lipitor in setting of transaminitis.
   .
   # DMII: diabetic diet.  1/2 dose lantus while npo and RISS and q6hr
   finger sticks, hold metformin as inpatient.
   .
   # FEN:  ADAT, PPI
   .
   # Access: PIV
   .
   # PPx:  PPI [**Hospital1 **], hold sc heparin given bleed, pneumoboots. Flu shot.
   Pneumococcal vaccine.
   .
   # Code:  DNR/I confirmed with patient
   .
   # Dispo:  Callout today. Screen for skilled nursing facility per PT
   recommendations.
   .
   # Comm: HCP [**Name (NI) **] [**Name (NI) 1130**]  (son) [**Telephone/Fax (1) 1131**]
   ICU Care
   Nutrition: ADAT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: Venodyne Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Callout
   13:11
   ------ Protected Section ------
   Critical care
   Present for key portions of history and exam. Agree with plan outlined.
   Bleeding seems to have stopped and now is stable.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2107-11-4**] 15:43 ------